US07932272B2
N-(5-(3-Chloro-benzyl)-thiophen-2-ylmethyl)-6-(methoxymethyl-amino)-nicotinamide
To a solution of 6-amino-N-(5-(3-chloro-benzyl)-thiophen-2-ylmethyl)-nicotinamide described in Example A-145 (110 mg, 0.3 mmol) in methanol (10 mL) were added 5,5-dimethylimidazo phospho-2,4-dione (43 mg, 0.33 mmol) and an aqueous solution of 37% formaldehyde (0.5 mL), and the solution was stirred under reflux for 2 hours. NH silica gel was added to the reaction solution, the solvent was evaporated in vacuo for adsorption, purification was carried out by NH silica gel column chromatography (hexane:ethyl acetate=1:1, then ethyl acetate), and the title compound (65 mg, 0.16 mmol, 54%) was obtained as a slightly yellow solid.

reactant | 6-amino-N-(5-(3-chloro-benzyl)-thiophen-2-ylmethyl)-nicotinamide | NC1=NC=C(C(=O)NCC=2SC(=CC2)CC2=CC(=CC=C2)Cl)C=C1 | C18H16ClN3OS
reactant | A-145 | 0.3 mmol, 110 mg | CC[C@H](C)[C@@H](C(=O)O)NCNC(=O)OCC | C10H20N2O4
reactant | formaldehyde | 0.5 mL | C=O | CH2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | N-(5-(3-Chloro-benzyl)-thiophen-2-ylmethyl)-6-(methoxymethyl-amino)-nicotinamide | 0.16 mmol, 65 mg, 54% | ClC=1C=C(CC2=CC=C(S2)CNC(C2=CN=C(C=C2)NCOC)=O)C=CC1 | C20H20ClN3O2S
